US03944531
2-bromo-6-methyl-heptane was reacted with vanillic acid N,N-diethyl amide to obtain p-[(1,5-dimethyl-hexyl)-oxy]-m-methoxy-N,N-diethyl-benzamide (boiling point = 180°-182°C/0.1 mmHg);

reactant | 2-bromo-6-methyl-heptane | BrC(C)CCCC(C)C | C8H17Br
reactant | vanillic acid N,N-diethyl amide | C(C)N(C(C1=CC(OC)=C(O)C=C1)=O)CC | C12H17NO3
product | p-[(1,5-dimethyl-hexyl)-oxy]-m-methoxy-N,N-diethyl-benzamide | CC(CCCC(C)C)OC1=C(C=C(C(=O)N(CC)CC)C=C1)OC | C20H33NO3
